US07071184B2
b. (S)-2-Amino-3-cyclohexyl-N-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-yl)-propionamide
HCl in dioxane (4.0 M, 15 ml) was added to a stirred solution of [(S)-2-Cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (1.4 g, 3.0 mmol) in MeOH (5 ml). The reaction mixture was stirred for 2 h at RT, then was concentrated in vacuo by rotary evaporation and was used in the next reaction without further purification (1.4 g).

reactant | HCl | Cl | ClH
reactant | [(S)-2-Cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 3.0 mmol, 1.4 g | C(C)(C)(C)OC(N[C@@H](CC1CCCCC1)C(N[C@@H]1[C@H](CN([C@@H](CC1)C)CCC)O)=O)=O | C24H45N3O4
solvent | dioxane | 4.0 M, 15 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 ml | CO | CH4O
product | (S)-2-Amino-3-cyclohexyl-N-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-yl)-propionamide | N[C@H](C(=O)N[C@@H]1[C@H](CN([C@@H](CC1)C)CCC)O)CC1CCCCC1 | C19H37N3O2
